US04965270
A mixture of (S)-N-(2,2-Dimethyl-1,3-dioxolan-4-ylmethoxy)phthalimide (10 g, 36 mmol), and N-methylhydrazine (3.32 g, 72 mmol) in dichloromethane (150 ml) was stirred at 25° C. for 2 h. The reaction was filtered, evaporated to dryness and the residue suspended in ether. The suspension was filtered and evaporated and the residue chromatographed in ethyl acetate affording (S)-2,2-Dimethyl-1,3-dioxolan-4-ylmethoxyamine (4.8 g, 91%) as a clear liquid [α]D25 -2.4° (0.49 in MeOH); υmax (film) 3550, 3300 and 1600 cm-1 ; δH (CDCl3)1.38(3H,S,CH3), 1.44(3H,S,CH3), 3.71 (3H,m,CH2ON+1H of CH2OCMe2), 4.05(1H,q,J6.3,8.2 Hz,1H of CH2OCMe2), 4.35(1H,m,CH) and 5.57(2H,br.s, D2O exchangeable, NH2); m/z 132 (M+ -CH3, 24%). Found: C, 48.76; H, 9.00; N, 9.56% C6H13NO3 requires C, 48.96; H, 8.90; N, 9.52%

reactant | (S)-N-(2,2-Dimethyl-1,3-dioxolan-4-ylmethoxy)phthalimide | 36 mmol, 10 g | CC1(OC[C@H](O1)CON1C(C=2C(C1=O)=CC=CC2)=O)C | C14H15NO5
reactant | N-methylhydrazine | 72 mmol, 3.32 g | CNN | CH6N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | (S)-2,2-Dimethyl-1,3-dioxolan-4-ylmethoxyamine | 4.8 g, 91% | CC1(OC[C@H](O1)CON)C | C6H13NO3
